Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Phenobarbital / Valium / Haldol
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of seizure disorder and mental retardation who 
presents with complaints of polyuria and fever. Pt's mother 
called primary care doctor's office to report that for the past 
few days pt has had increased urinary frequency. She also noted 
that pt had a fever 100.4 two days ago. Pt has had no fever 
since then. Denies dysuria or foul odor. He has not had any 
cough or sputum production. Per his mother, he has not had any 
episodes of emesis, abd pain, or diarrhea. No night sweats or 
recent weight loss. No new changes in medications. The only 
other complaint the patient's mother notes is two episodes of 
facial swelling, the most recent that occured one week ago and 
resolved with ibuprofen. No oral abscesses on mother's 
examination of mouth. No evidence of skin breakdown or rashes. 
Pt lives in group home but mother denies any sick contacts.  
In the ED initial vitals were:  
- Labs were significant for wbc ct 15.9, lactate 1.7 and bland 
UA. Exam was notable for area of light blanching erythema around 
groin.  
- Patient was given CTX, 1L LR and 4 mg ativan for agitation.  
Vitals prior to transfer were: 98.1 96 120/56 18 99% RA  
On the floor, pt is nonverbal and laying calmly in bed. He is 
minimally responsive to commands and appears in no acute 
distress.  

 
Past Medical History:
Hypertension.  
Hypercholesterolemia.  
Onychomycosis.  
Seizure disorders.  
Seasonal allergies.  
Left and right ulnar fractures.  
Mental Retardation  
Esophagitis  
Chronic constipation  
Iron deficiency Anemia  

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PE:

Vitals - 98.1, 95, 97/52, 20, 98% on RA  
GENERAL: NAD, thin nonverbal male laying curled up in bed, does 
not participate in exam  
HEENT: MMM, sucking on thumb, anicteric sclera, no facial edema, 
unable to examine mouth ___ limited participation but no oral 
ulcers per mother  
CARDIAC: ___, no murmurs, gallops, or rubs  
LUNG: decreased inspiratory effort but no audible wheezes, 
crackles or rhonchi  
ABDOMEN: nondistended, nontender, no rebound or guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moves all 
extremities  
SKIN: warm and well perfused, no visable areas of skin breakdown 
 

DISCHARGE PE:

Vitals: 98.1; 104/65; 77; 18; 98RA 
General: sleeping in contained bed
HEENT: Sclera anicteric, moist mucous membranes, oropharynx 
clear  
Neck: Supple, JVP not elevated, no tonsillar or cervical 
lymphadenopathy  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro:  non-verbal at baseline. A&Ox0

 
Pertinent Results:
RELEVENT LABS:

___ 04:35PM BLOOD WBC-15.9*# RBC-3.31* Hgb-10.2* Hct-30.2* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-15.2 Plt ___
___ 07:45AM BLOOD WBC-9.2 RBC-3.13* Hgb-9.3* Hct-28.2* 
MCV-90 MCH-29.6 MCHC-32.8 RDW-15.3 Plt ___
___ 04:35PM BLOOD Neuts-82.8* Lymphs-11.0* Monos-5.6 
Eos-0.2 Baso-0.4
___ 07:45AM BLOOD Glucose-91 UreaN-27* Creat-1.2 Na-138 
K-4.1 Cl-100 HCO3-27 AnGap-15
___ 07:45AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.9
___ 04:47PM BLOOD Lactate-1.7
___ 04:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:30PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
.
___ 4:30 pm URINE     Site: NOT SPECIFIED      CHEM S# 
___. 

MICRO: Blood Cx, Urine Cx pending at discharge

STUDIES/IMAGING: None
 
Brief Hospital Course:
___ with history of seizure disorder and mental retardation who 
presents with complaints of fever.    

#Fever - patient had fever 2 days prior to admission however 
remained without fever on admission and no localizing signs of 
infection. CXR was deferred at request of patiets mother/HCP as 
no symptoms/signs of respiratory infection and felt would 
aggitate patient further. If patient continues to spike fever, 
then informed patient's mother to make another follow up 
appointment with PCP to determine if patient has developed any 
localizing signs of infection.  It is likely that patient's 
fever was secondary to viral syndrome which resolved without any 
intervention. 

#Hypotension - patient with systolic blood pressures in the ___ 
on admission which improved to SBP of 104 at the time of 
discharge with IVF.  We discontinued patient's blood pressure 
medication Enalapril and HCTZ.  These medications may be 
retarted as outpatient if needed. We encouraged patient's mother 
to have him drink plenty of fluid to keep him hydrated.  His 
mother will make a follow up appointment with ___ for blood 
pressure check either this week or next week. 

#Leukocytosis: Pt with wbc ct of 15.9 on admission, no bands or 
atypicals on diff. Completed workup for infection as above. 
Trended down to WNL at time of discharge.

___: Cr 1.2 on admission from normal baseline. Likely pre-renal 
in setting of decreased PO intake from ? infection above. 
Received 1L IVF in ED. As above, encouraged further PO intake as 
outpatient. Also held HCTZ and ACE-Inhibitor.

CHRONIC MEDICAL ISSUES:  

#Seizure d/o: currently not on any anti-epileptics. Has not had 
seizure in long period per mother. 

#Mental retardion: pt non-verbal at baseline and became agitated 
in the ED. Given Ativan and eventually calmed down when reached 
medicine floor. 

#Chronic constipaton: continued home regimen of miralax, senna 
and docusate  

#HTN: held HCTZ and enalapril given mild ___ and hypotension. 
Not restarted at D/C as patient was normotensive. Will need to 
continue to monitor BPs and follow up with PCP to determine if 
can restart HCTZ and ACE-Inhibitor. 

#Seasonal allergies: continued home loratadine  

#GERD: continued home omeprazole  

#Iron deficiency anemia: h/h on admission 10.2/30.2, which is 
less than most recent values however close to baseline from 
___. Pt has been seen by Dr. ___ in ___ clinic. There 
has been a discussion about need for colonoscopy in future to 
assess ___. No evidence of weight loss per mother or change in 
bowel habits immediately concerning for malignancy. Continued 
iron supplements this admission.

TRANSITIONAL ISSUES:

#Fever - patient had fever 2 days prior to admission, however 
remained without fever on admission and no localizing signs of 
infection. CXR was deferred at request of patiets mother/HCP as 
no symptoms/signs of respiratory infection and felt would 
aggitate patient further. If patient continues to spike fever, 
consider good oral exam given hx of swelling/edema of cheek 1 
week prior to admission and consider empiric treatment for 
possible pneumonia. 

#BP - patient with systolic blood pressures in the ___ this 
admission that resolved with IVF to 100s systolic, but stable HR 
and per mother patient appears at his baseline. Encouraged PO 
intake of fluids. Also asked patient to hold home ACE-Inhibitor 
and HCTZ at discharge. These can be restarted by PCP if needed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Hydrocortisone Oint 1% 1 Appl TP BID:PRN itching 
4. Ketoconazole 2%  1 Appl TP BID:PRN itching 
5. Polyethylene Glycol 17 g PO DAILY 
6. Senna 25.8 mg PO HS 
7. DiphenhydrAMINE ___ mg PO HS:PRN insomnia 
8. Ferrous Sulfate 140 mg PO DAILY 
9. Omeprazole 20 mg PO BID 
10. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1. Ferrous Sulfate 140 mg PO DAILY 
2. Loratadine 10 mg PO DAILY:PRN allergies 
3. Omeprazole 20 mg PO BID 
4. Polyethylene Glycol 17 g PO DAILY 
5. Senna 25.8 mg PO HS 
6. DiphenhydrAMINE ___ mg PO HS:PRN insomnia 
7. Hydrocortisone Oint 1% 1 Appl TP BID:PRN itching 
8. Ketoconazole 2%  1 Appl TP BID:PRN itching 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Fever

Secondary Diagnosis:
- Siezure Disorder
- Hypertension
- Gastroesophogeal Reflux Disease

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization. 
You were admitted for a fever and increased urination. You also 
had an elevated white blood cell count. You did not have any 
further fevers this admission, your white blood cell count 
recovered and you did not show any further signs of infection. 
You were not given further antibiotics given that lack of signs 
of infection.  Please call your PCP if you develop any worsening 
cough, shortness of breath or chest pain or continued ongoing 
fevers.

Sincerely,

Your ___ Team
 
Followup Instructions:
___